US05922737
Combine (1H-benzimidazol-2-yl)(1-ethoxycarbonyl piperidin-4-yl)amine (1.44 g, 5.0 mmol) and dimethylformamide (3 mL) and tetrahydrofuran (25 mL). Add sodium hydride (0.34 g, 60% in oil, 8.5 mmol). After 1 hour, add methyl iodide (1 mL). After 18 hours, evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give (1-methyl-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine: Rf =0.25 (silica gel, ethyl acetate).

reactant | (1H-benzimidazol-2-yl)(1-ethoxycarbonyl piperidin-4-yl)amine | 5.0 mmol, 1.44 g | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 8.5 mmol, 0.34 g | [H-].[Na+]
reactant | methyl iodide | 1 mL | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (1-methyl-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine | CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C16H22N4O2
